US04497810
3-Amino-5-[2-(methylthio)ethyl]-1,2,4,6-thiatriazine-1,1-dioxide
To a solution of N-sulfamyl-3-(methylthio)propionamidine (4.9 gm, 25 mmol) in dry tetrahydrofuran (75 ml) under nitrogen there was added 60% sodium hydride in mineral oil (1.0 gm, 25 mmol). This mixture was warmed at 60° C. for 1/2 hour as a copious precipitate formed. To this suspension, a solution of phenylcyanate (3.0 gm, 25 mmol) in dry THF was added dropwise giving a homogeneous solution. After 1/2 hour, additional 60% sodium hydride in mineral oil (1.0 gm, 25 mmol) was added and the resultant solution warmed at 50° C. for 20 hours. The reaction mixture was diluted with diethyl ether and the precipitate collected by filtration. This precipitate was dissolved in water, acidified with dilute HCl, filtered and the aqueous solution extracted with 3% methanol/chloroform and then the water removed under vacuum. The residue was extracted with acetonitrile, filtered, and the extract evaporated to give crude product (2.0 gm). This material was chromatographed on silica gel and eluted with 5- 10% methanol/chloroform. Upon concentration of the appropriate fractions, the product crystallized, (1.4 gm), m.p. 243°-246° C.

reactant | N-sulfamyl-3-(methylthio)propionamidine | 25 mmol, 4.9 gm | S(N)(=O)(=O)NC(CCSC)=N | C4H11N3O2S2
reactant | sodium hydride | [H-].[Na+]
reactant | phenylcyanate | 25 mmol, 3.0 gm | C1(=CC=CC=C1)OC#N | C7H5NO
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Amino-5-[2-(methylthio)ethyl]-1,2,4,6-thiatriazine-1,1-dioxide | 2.0 gm | NC=1NS(N=C(N1)CCSC)(=O)=O | C5H10N4O2S2
